US08877970B2
4-(3-(2-fluoro-4-iodophenyl)thioureido)benzenesulfonamide (MIP-1147)
The subject compound was prepared utilizing the procedure described above from 4-isothiocyanatobenzenesulfonamide and 2-fluoro-4-iodoaniline. 1H NMR (400 MHz, DMSO-d6) δ 10.35 (s, 1H), 9.77 (s, 1H), 7.86-7.37 (m, 7H), 7.29 (bs, 2H); (M+H)+ (452).

reactant | 4-isothiocyanatobenzenesulfonamide | N(=C=S)C1=CC=C(C=C1)S(=O)(=O)N | C7H6N2O2S2
reactant | 2-fluoro-4-iodoaniline | FC1=C(N)C=CC(=C1)I | C6H5FIN
product | 4-(3-(2-fluoro-4-iodophenyl)thioureido)benzenesulfonamide | FC1=C(C=CC(=C1)I)NC(NC1=CC=C(C=C1)S(=O)(=O)N)=S | C13H11FIN3O2S2
